US04159331
In the manner given in Example 1C, 4,7-dichloroquinoline is heated with 1-[(p-aminophenyl)-sulfonyl]-4-(2,6-difluorophenyl)piperazine to give 1-(2,6-difluorophenyl)-4-[[4-[[7-chloro-4-quinolinyl]amino]phenyl]sulfonyl]piperazine.

reactant | 4,7-dichloroquinoline | ClC1=CC=NC2=CC(=CC=C12)Cl | C9H5Cl2N
reactant | 1-[(p-aminophenyl)-sulfonyl]-4-(2,6-difluorophenyl)piperazine | NC1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C1=C(C=CC=C1F)F | C16H17F2N3O2S
product | 1-(2,6-difluorophenyl)-4-[[4-[[7-chloro-4-quinolinyl]amino]phenyl]sulfonyl]piperazine | FC1=C(C(=CC=C1)F)N1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)Cl | C25H21ClF2N4O2S
